US04873236
9-Chloro-11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
11.6 g (0.0472 mol) of 9-chloro-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one, suspended in a mixture of 450 ml of anhydrous dioxane and 6.4 ml (0.08 mol) of pyridine, were combined at 45° C., within 20 minutes, with 47.1 ml (0.094 mol) of a 20% solution of phosgene in toluene. The reaction mixture was stirred for 2 hours at 45° C. and then for 4 hours at 60° C. The mixture was filtered while hot, the filtrate was evaporated down in vacuo, the crystallising residue remaining was resuspended in 100 ml of dioxane, refluxed for 2 hours, evaporated down once more, mixed with copious amounts of water and suction filtered. After drying in a circulating air dryer the product had an m.p. of 265°-267° C., RF 0.70 (Macherey-Nagel, PolygramRSIL G/UV254, pre-coated plastic sheets for TLC, eluant: dichloromethane/ethyl acetate 1/1 v/v).

reactant | 9-chloro-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | 0.0472 mol, 11.6 g | ClC1=CC2=C(C(NC3=C(N2)N=CC=C3)=O)C=C1 | C12H8ClN3O
reactant | pyridine | 0.08 mol, 6.4 ml | N1=CC=CC=C1 | C5H5N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | dioxane | 450 ml | O1CCOCC1 | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 9-Chloro-11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | ClC1=CC2=C(C(NC3=C(N2C(=O)Cl)N=CC=C3)=O)C=C1 | C13H7Cl2N3O2
